US07365095B2
A solution of [(2R)-9-(2,6-dichlorophenyl)-2,3,4,5-tetrahydro-1-benzoxepin-2-yl]methyl 4-methylbenzenesulfonate (381 mg, 0.798 mmol) and sodium azide (208 mg, 3.192 mmol) in anhydrous dimethyl sulfoxide (10 mL) was heated at 70° C. under nitrogen for 19 hours. The cooled reaction mixture was quenched by the addition of water (30 mL) and the resulting suspension stirred vigorously for 5 minutes. The mixture was then partitioned between ethyl acetate (100 mL) and water (100 mL), the organic phase separated, washed with water (100 mL) and saturated brine (100 mL), dried over magnesium sulfate, filtered and concentrated under reduced pressure to afford a colorless syrup. Purification by flash chromatography using 3% ethyl acetate in hexane as eluant gave 240 mg (86%) of (2R)-2-azidomethyl-9-(2,6-dichloro-phenyl)-2,3,4,5-tetrahydro-benzo[b]oxepine as a colorless syrup.

reactant | [(2R)-9-(2,6-dichlorophenyl)-2,3,4,5-tetrahydro-1-benzoxepin-2-yl]methyl 4-methylbenzenesulfonate | 0.798 mmol, 381 mg | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(CCC1)C=CC=C2C2=C(C=CC=C2Cl)Cl | C24H22Cl2O4S
reactant | sodium azide | 3.192 mmol, 208 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | (2R)-2-azidomethyl-9-(2,6-dichloro-phenyl)-2,3,4,5-tetrahydro-benzo[b]oxepine | 240 mg, 86% | N(=[N+]=[N-])C[C@H]1CCCC2=C(O1)C(=CC=C2)C2=C(C=CC=C2Cl)Cl | C17H15Cl2N3O
